US07402603B2
A mixture of 2-chloro-6-fluoroaniline (4.00 g, 27.5 mmol), 4-bromotoluene (4.70 g, 27.5 mmol), sodium tert-butylate (4.75 g, 49.4 mmol), and toluene (55 mL) is stirred at 25° C. under nitrogen for 30 minutes. To this mixture, a solution of palladium-bis-(dibenzylidenacetone) (15.8 mg, 55 mmol) and tri-tert-butylphosphine (1) (8.3 mg, 0.04 mmol) in toluene (5 mL) is added and the resulting suspension is stirred at 110° C. for 14 hours. The mixture is then cooled to 30° C. Water (30 ml), concentrated hydrochloric acid (10 ml), charcoal and cellite (1 g each) are added and stirring is continued for 1 hour. The mixture is filtered and the filtrate is separated into its phases. The organic phase is washed three times with water (10 mL) and concentrated in vacuo to give 6.5 g of crude (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine. The product can be used directly in the next step (Step 1.2). Alternatively, it can be distilled in vacuo by Kugelrohr.

reactant | 2-chloro-6-fluoroaniline | 27.5 mmol, 4.00 g | ClC1=C(N)C(=CC=C1)F | C6H5ClFN
reactant | 4-bromotoluene | 27.5 mmol, 4.70 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tri-tert-butylphosphine | 0.04 mmol, 8.3 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 30 ml | O | H2O
product | (2′-chloro-6′-fluorophenyl)-(4-methylphenyl)-amine | 6.5 g | ClC1=C(C(=CC=C1)F)NC1=CC=C(C=C1)C | C13H11ClFN
